US06906085B2
(E)-2-Formyloxymethyl-3-phenylacrylic acid methyl ester
To a stirred solution of triethylammonium formate (1.87 g) in acetonitrile (4 ml) was added (Z)-2-bromomethyl-3-phenylacrylic acid methyl ester (1.30 g) and the mixture heated at reflux for 2 hours. The reaction was cooled and extracted into diethyl ether (3×10 ml). The combined organics were dried (MgSO4) and concentrated under reduced pressure to afford the title compound as a crude oil.

reactant | triethylammonium formate | 1.87 g | C(=O)[O-].C(C)[NH+](CC)CC
reactant | (Z)-2-bromomethyl-3-phenylacrylic acid methyl ester | 1.30 g | COC(/C(=C/C1=CC=CC=C1)/CBr)=O | C11H11BrO2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | (E)-2-Formyloxymethyl-3-phenylacrylic acid methyl ester | COC(\C(=C\C1=CC=CC=C1)\COC=O)=O | C12H12O4
